US09388189B2
(S)-5-Methyl-2-(1-((6-methylthieno[2,3-d]pyrimidin-4-yl)amino)ethyl)-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one
(S)-2-(1-((6-Bromothieno[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one (50 mg, 0.10 mmol) was dissolved in 3 mL dimethylformamide. Potassium carbonate (287 mg, 2.08 mmol), tetrakis(triphenylphosphine)palladium(0) (12 mg, 0.01 mmol) and trimethylboroxine (130 μl, 0.93 mmol) were added under argon conditions. The reaction mixture was stirred at 130° C. for 2 h. The crude was poured into 25 mL saturated ammonium chloride solution and extracted twice with ethyl acetate. The organics were dried over magnesium sulphate, filtered and evaporated under reduced pressure. The residue was purified using SP1® Purification System by reverse phase to obtain 26 mg (60% yield) of a yellow solid as a title compound. Purity 100%.

reactant | (S)-2-(1-((6-Bromothieno[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 0.10 mmol, 50 mg | BrC1=CC2=C(N=CN=C2N[C@@H](C)C2=NN3C(C(N2C2=CC=CC=C2)=O)=C(C=C3)C)S1 | C21H17BrN6OS
reactant | Potassium carbonate | 2.08 mmol, 287 mg | C([O-])([O-])=O.[K+].[K+]
reactant | trimethylboroxine | 0.93 mmol, 130 μl | CB1OB(OB(O1)C)C | C3H9B3O3
reactant | ammonium chloride | 25 mL | [Cl-].[NH4+]
solvent | dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.01 mmol, 12 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (S)-5-Methyl-2-(1-((6-methylthieno[2,3-d]pyrimidin-4-yl)amino)ethyl)-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | CC=1C=CN2N=C(N(C(C21)=O)C2=CC=CC=C2)[C@H](C)NC=2C1=C(N=CN2)SC(=C1)C | C22H20N6OS
